US04130666
Reacting cyclopropanecarbonyl chloride with 2,6-di(t-butyl)phenol by the method of Example 1, white, solid 3,5-di(t-butyl)-4-hydroxyphenyl cyclopropyl ketone, m.p. 140.5°-142.5° C. is obtained.

reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 2,6-di(t-butyl)phenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
product | 3,5-di(t-butyl)-4-hydroxyphenyl cyclopropyl ketone | C1(CC1)C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C18H26O2
